* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Draft1.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 SINE(0 2 2 0 0 0 100)
V2 N002 0 SINE(0 2 2 0 0 0 100)
C1 N001 0 1
.tran 1
.backanno
.end
